US03932452
1-(2-Hydroxy-5-nitrobenzyl)-2-imidazolidinone
A 7.9 g (0.092 mole) portion of 2-imidazolidinone in 92 ml of dimethylsulfoxide was treated with 12.7 g (0.092 mole) of K2CO3, 7.4 g (0.045 mole) of potassium iodide and 20.0 g (0.092 mole) of 2-hydroxy-5-nitrobenzyl bromide. The reaction mixture was heated to 105° over 0.3 hours and held at 105° for 1.6 hours. The reaction mixture was poured with stirring into 550 ml of water. The aqueous mixture was acidified with 9 ml of concentrated HCl and extracted with 480 ml of chloroform. The chloroform extract was washed with 60 ml of H2O, dried over MgSO4 overnight and filtered. The filtrate was concentrated under reduced pressure to give 18 g of a yellow semi-solid. The crude product was crystallized using 65 ml of benzene and filtered, washing with ether to give 9.7 g (44%) of a light yellow semi-solid. Recrystallization from acetonitrile gave an analytical sample, m.p. 222°-224° dec.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.092 mole, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.045 mole, 7.4 g | [I-].[K+]
reactant | 2-hydroxy-5-nitrobenzyl bromide | 0.092 mole, 20.0 g | OC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C7H6BrNO3
reactant | HCl | 9 ml | Cl | ClH
solvent | dimethylsulfoxide | 92 ml | CS(=O)C | C2H6OS
solvent | water | 550 ml | O | H2O
product | 1-(2-Hydroxy-5-nitrobenzyl)-2-imidazolidinone | 18 g | OC1=C(CN2C(NCC2)=O)C=C(C=C1)[N+](=O)[O-] | C10H11N3O4
